US04309441
Under nitrogen a solution of 5.6 g. of 5-triphenylphosphoniopentanoic acid p-benzoylaminophenyl ester bromide, dissolved in 15 ml. of dry DMSO was dropped into a stirred solution which had been obtained by the addition of 0.75 g. of NaH (as a 50% suspension in mineral oil) to 10 ml. of dry DMSO. The mixture was maintained for 1 hour at 80° C. After cooling to room temperature, there was added dropwise, under nitrogen and with stirring, 3 g. of 2-oxa-3,7-dihydroxy-6-(2-hydroxy-2-methyl-heptylmercapto)-bicyclo[3.3.0]octane, dissolved in 5 ml. of dry DMSO, to the solution of the phosphorylide. The solution was stirred for a further 2 hours at 50° C. After cooling, the reaction mixture was poured into a mixture consisting of 10 ml. of ethyl acetate, 40 g of dry ice and 50 ml of water. The organic phase was separated off. The aqueous phase was washed three times with 50 ml amounts of ethyl acetate containing 20 g. of dry ice. The combined organic phases were washed with water and dried over MgSO4. The solvent was distilled off. After chromatographic purification of the residue (silica gel/chloroform), 9,11,15-trihydroxy-15-methyl-13-thia-5-prostenoic acid p-benzoylaminophenyl ester was obtained.

reactant | 5-triphenylphosphoniopentanoic acid p-benzoylaminophenyl ester bromide | [Br-].C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)OC(CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | DMSO | CS(=O)C | C2H6OS
reactant | NaH | [H-].[Na+]
reactant | dry ice | 40 g | C(=O)=O | CO2
reactant | water | 50 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9,11,15-trihydroxy-15-methyl-13-thia-5-prostenoic acid p-benzoylaminophenyl ester | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)OC(CCCC=CC[C@H]1C(CC([C@@H]1SCC(CCCCC)(C)O)O)O)=O | C33H45NO6S
